US07645771B2
Preparation of 2-chloro-5-[(cyclopentylamino)sulfonyl]-4-fluorobenzoic acid
1.01 g (3.7 mmol) 3-chlorosulfonyl-4-fluorobenzoic acid was added to 1.08 mL (10.9 mmol) cyclopentylamine following the general procedure in for 2-chloro-5-[(ethylamino)sulfonyl]-4-fluorobenzoic acid. Crude product was used in subsequent step without further purification

reactant | 3-chlorosulfonyl-4-fluorobenzoic acid | 3.7 mmol, 1.01 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1F | C7H4ClFO4S
reactant | cyclopentylamine | 10.9 mmol, 1.08 mL | C1(CCCC1)N | C5H11N
reactant | 2-chloro-5-[(ethylamino)sulfonyl]-4-fluorobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)S(=O)(=O)NCC | C9H9ClFNO4S
product | 2-chloro-5-[(cyclopentylamino)sulfonyl]-4-fluorobenzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)S(=O)(=O)NC1CCCC1 | C12H13ClFNO4S
